US04956359
trans-2-Methyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A mixture of 6 g (0.015 mole) of crude trans-2-methyl-3-[3-(trifluoromethyl)phenoxy]azetidine (purity 56.6% contains diphenylmethane) and 2.4 g (0.0225 mole) of nitrourea in 40 ml of acetone was treated with 4 ml of water, then heated until a clear homogenous solution was obtained. The reaction mixture was stirred overnight as it cooled to ambient temperature and diluted with water until an oil separated. The oil solidified and was recrystallized from ethanol/water, yielding 4.3 g of white plate-like crystals; m.p. 117°-118° C. The product was recrystallized from benzene, yielding 3.35 g (96.8%) of crystals, m.p. 118°-119° C.

reactant | trans-2-methyl-3-[3-(trifluoromethyl)phenoxy]azetidine | 0.015 mole, 6 g | C[C@@H]1NC[C@H]1OC1=CC(=CC=C1)C(F)(F)F | C11H12F3NO
reactant | nitrourea | 0.0225 mole, 2.4 g | [N+](=O)([O-])NC(=O)N | CH3N3O3
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | water | 4 ml | O | H2O
product | trans-2-Methyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 3.35 g, 96.8% | C[C@@H]1N(C[C@H]1OC1=CC(=CC=C1)C(F)(F)F)C(=O)N | C12H13F3N2O2
